US09216980B2
Step 3: 1-(5-Bromothiophen-3-ylmethyl)-piperidine
To a solution of (5-bromothiophen-3-yl)-piperidin-1-yl-methanone (907 mg, 3.30 mmol) in DCM (33 mL) was added tetrabutylammonium borohydride (2.54 g, 9.90 mmol) portionwise over 10 minutes. The reaction mixture was heated under reflux for 19 h then further tetrabutylammonium borohydride (2.54 mg, 9.90 mmol) was added to the reaction mixture, in four portions over 6 h. and then the reaction mixture was heated under reflux for 18 h. After this time the reaction mixture was partitioned between DCM (100 mL) and saturated aqueous sodium bicarbonate solution (100 mL). The organic layer was dried over sodium sulfate, the solvent was removed in vacuo and the residue was purified by flash chromatography (silica, 40 g column, ISCO, 0-50% ethyl acetate in cyclohexane) to afford an oil which solidified on standing to afford the title compound as a white solid (301 mg, 35%). 1H NMR (CDCl3, 300 MHz):7.23 (d, J=1.7 Hz, 1H), 7.15 (d, J=1.7 Hz, 1H), 3.91 (s, 2H), 2.97-2.87 (m, 2H), 2.72-2.62 (m, 2H), 2.15-2.06 (m, 2H), 1.70-1.52 (m, 2H), 1.41-1.25 (m, 2H); LCMS (Method B): RT=4.0 min, M+H+=260.

reactant | (5-bromothiophen-3-yl)-piperidin-1-yl-methanone | 3.30 mmol, 907 mg | BrC1=CC(=CS1)C(=O)N1CCCCC1 | C10H12BrNOS
reactant | tetrabutylammonium borohydride | 9.90 mmol, 2.54 g | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium borohydride | 9.90 mmol, 2.54 mg | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 33 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-Bromothiophen-3-ylmethyl)-piperidine | 301 mg, 35% | BrC1=CC(=CS1)CN1CCCCC1 | C10H14BrNS
